US05985901
Step 2E (S)-{2-[5-[2-(7-azabicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxo-ethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]-propyl}-carbamic acid tert-butyl ester
To a stirred solution of (S)-2-[3-(2-tert-butoxycarbonylamino-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid (2.5 g in 25 mL dry methylene chloride) at 0° C. was added 1-hydroxybenzotriazole (1.0 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.24 g) and the reagents allowed to mix for 1 hour. At this time a solution of 7-aza-bicyclo[2.2.1]heptane hydrochloride (1.44 g) was added followed by 1.5 mL triethylamine and the reaction stirred at room temperature. After 21 hours, the mixture was concentrated in vacuo and purified by flash chromatography on silica gel (hexane:ethyl acetate, 1:1) to give the title compound (2.6 g).

reactant | (S)-2-[3-(2-tert-butoxycarbonylamino-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid | 25 mL, 2.5 g | C(C)(C)(C)OC(=O)NC[C@@H](C)C1=C(NC2=CC=C(C=C12)C(C(=O)O)(C)C)C1=CC(=CC(=C1)C)C | C28H36N2O4
reactant | 1-hydroxybenzotriazole | 1.0 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.24 g | Cl.CN(CCCN=C=NCC)C
reactant | 7-aza-bicyclo[2.2.1]heptane hydrochloride | 1.44 g | Cl.C12CCC(CC1)N2
solvent | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
product | (S)-{2-[5-[2-(7-azabicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxo-ethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]-propyl}-carbamic acid tert-butyl ester | 2.6 g | C(C)(C)(C)OC(NC[C@@H](C)C1=C(NC2=CC=C(C=C12)C(C(=O)N1C2CCC1CC2)(C)C)C2=CC(=CC(=C2)C)C)=O | C34H45N3O3
